US07863283B2
(RS)-S-(3-{[(6-Bromo-4-{[(R)-2-hydroxypropyl]amino}quinazolin-7-yl)oxy]-methyl}phenyl)-S-methylsulphoximide
According to GWP 6, (RS)-S-(3-{[(6-bromo-4-{[(R)-2-hydroxypropyl]amino}quinazolin-7-yl)oxy]methyl}phenyl)-N-(ethoxycarbonyl)-S-methylsulphoximide (38 mg, 0.071 mmol) is dissolved in ethanol (5 mL), admixed with sodium ethoxide (17 mg, 0.25 mmol) and stirred at 60° C. for 6 hours. The reaction solution is admixed with saturated sodium bicarbonate solution and extracted with ethyl acetate. Drying of the organic phase over sodium sulphate and removal of the solvent and also chromatographic purification of the residue (silica gel, dichloromethane/methanol: 0→10% methanol) gives the desired product in 88% yield (29 mg).

reactant | (RS)-S-(3-{[(6-bromo-4-{[(R)-2-hydroxypropyl]amino}quinazolin-7-yl)oxy]methyl}phenyl)-N-(ethoxycarbonyl)-S-methylsulphoximide | 0.071 mmol, 38 mg | BrC=1C=C2C(=NC=NC2=CC1OCC=1C=C(C=CC1)S(=O)(=NC(=O)OCC)C)NC[C@@H](C)O | C22H25BrN4O5S
reactant | sodium ethoxide | 0.25 mmol, 17 mg | [O-]CC.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (RS)-S-(3-{[(6-Bromo-4-{[(R)-2-hydroxypropyl]amino}quinazolin-7-yl)oxy]-methyl}phenyl)-S-methylsulphoximide | 88% yield | BrC=1C=C2C(=NC=NC2=CC1OCC=1C=C(C=CC1)S(=O)(=N)C)NC[C@@H](C)O | C19H21BrN4O3S
